US05574014
Leu-Leu (1.0 g, 3.8 mmol) and potassium carbonate (7.0 g, 5 mmol) are dissolved in 100 ml of water. The solution is cooled with ice and 5.0 ml acetic anhydride in 50 ml of ether is added dropwise under vigorous stirring. Stirring is continued for one hour, then the ice-bath is removed and the stirring continued for further 2 hours. The water phase is separated, acidified with hydrochloric acid. The precipitate is stirred for one hour, filtered, washed with water and dried yielding 0.8 gram (74%) of Ac-Leu-Leu.

reactant | Leu-Leu | 3.8 mmol, 1.0 g | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)O)N | C12H24N2O3
reactant | potassium carbonate | 5 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | 5.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ac-Leu-Leu | 0.8 gram, 74% | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)C | C14H26N2O4
